US05356897
A mixture of 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole (100 mg), 1,2-bis-(4-fluorophenyl)-2-hydroxyethan-1-one (167 mg) and concentrated hydrochloric acid (1 ml) in ethanol was refluxed for 5 hours. The reaction mixture was concentrated in vacuo and the obtained crystalline was washed with hot ethanol to give 2,3,6-tris-(4-fluorophenyl)-7-(pyridin-4-yl)-1H-imidazo[1,2-b]pyrazole hydrochloride (50 mg).

reactant | 5-amino-3-(4-fluorophenyl)-4-(pyridin-4-yl)pyrazole | 100 mg | NC1=C(C(=NN1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C14H11FN4
reactant | 1,2-bis-(4-fluorophenyl)-2-hydroxyethan-1-one | 167 mg | FC1=CC=C(C=C1)C(C(O)C1=CC=C(C=C1)F)=O | C14H10F2O2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2,3,6-tris-(4-fluorophenyl)-7-(pyridin-4-yl)-1H-imidazo[1,2-b]pyrazole hydrochloride | 50 mg | Cl.FC1=CC=C(C=C1)C=1NC=2N(N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F)C1C1=CC=C(C=C1)F | InChI=1S/C28H17F3N4.ClH/c29-21-7-1-18(2-8-21)25-24(17-13-15-32-16-14-17)28-33-26(19-3-9-22(30)10-4-19)27(35(28)34-25)20-5-11-23(31)12-6-20;/h1-16,33H;1H
